US06686462B2
Preparation of dimethyl 1-octadecyloxycarbonylphosphonate (Formula VII: R═CH3(CH2)17—, R1═R2═CH3)
A mixture of octadecyl chloroformate (7.0 g, 21 mmol) and P(OMe)3 (37.2 mL) was stirred at 80° C. for 2 hours and allowed to cool overnight. The white solid of the title compound which formed was collected, washed with hexane, and dried overnight in a vacuum oven; yield 6.0 g. A second crop was obtained from the filtrate upon cooling (2.1 g); total yield 8.1 g (95%); mp 41-42° C. (hexane); IR (KBr): υ 2950-2880, 2830, 1710, 1470, 1375, 1350, 1280, 1220 cm−1; 1H NMR (CDCl3) δ 0.8-1.8 (m, 35H, CH3 (CH2)16), 3.9 (d, 6H, P(OCH3)2), 4.3 (t, 2H, CH2O). Anal. Calcd. for C21H43O5P: C, 62.03; H, 10.68; P, 7.62. Found: C, 62.16; H, 10/71; P, 7.69.

reactant | octadecyl chloroformate | 21 mmol, 7.0 g | ClC(=O)OCCCCCCCCCCCCCCCCCC | C19H37ClO2
reactant | P(OMe)3 | 37.2 mL | P(OC)(OC)OC | C3H9O3P
product | dimethyl 1-octadecyloxycarbonylphosphonate | C(CCCCCCCCCCCCCCCCC)OC(=O)P(OC)(OC)=O | C21H43O5P
